### PR TITLE
chore: make `norm_num` normalize negative rationals as `-a / b`

### PR DESCRIPTION
**Pull request by plp127**
Make `norm_num` normalize negative rationals as `-a / b` instead of `-(a / b)`. This is consistent with how `#eval` and `ring_nf` do them. See [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/normal.20form.20of.20a.20rational.20number/near/614821577).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/NNRat/Floor.lean [hunk 1]
```diff
@@ -124,7 +124,8 @@ theorem IsNNRat.natCeil {R : Type*} [Semifield R] [LinearOrder R] [IsStrictOrder
 theorem IsRat.natCeil {R : Type*} [Field R] [LinearOrder R] [IsStrictOrderedRing R]
     [FloorSemiring R] (r : R) (n d : ℕ) (h : IsRat r (.negOfNat n) d) : IsNat ⌈r⌉₊ 0 := by
   constructor
-  simp [h.neg_to_eq, div_nonneg]
+  rw [Nat.cast_zero, Nat.ceil_eq_zero, h.neg_to_eq rfl rfl]
+  exact div_nonpos_of_nonpos_of_nonneg (neg_nonpos.2 (Nat.cast_nonneg n)) (Nat.cast_nonneg d)
```
Comment (Vierkantor) [inline Mathlib/Data/NNRat/Floor.lean:128]: This is a clear regression. (Despite an arguable use of `div_nonneg` in the original simp set. That could become a call to `positivity`.)

If we do make `-a / b` the normal form, I believe we should have simp lemmas stating:

* `-a / b < 0 ↔ 0 < a / b`
* `-a / b ≤ 0 ↔ 0 ≤ a / b`
* `0 ≤ -a / b ↔ a / b ≤ 0`
* `0 < -a / b ↔ a / b < 0`

File: Mathlib/Tactic/NormNum/IsSquare.lean [hunk 2]
```diff
@@ -94,10 +94,9 @@ theorem not_isSquare_of_isRat_neg (a : ℚ) (n d : ℕ) (hn : n ≠ 0) (hd : d 
     (ha : IsRat a (Int.negOfNat n) d) : ¬IsSquare a := by
   rw [ha.neg_to_eq rfl rfl]
   rintro ⟨q, hq⟩
-  refine absurd hq (ne_of_lt ?_)
-  calc
-    -(n / d : ℚ) < 0 := by rw [Left.neg_neg_iff]; apply div_pos <;> simpa [Nat.pos_iff_ne_zero]
-    _ ≤ q * q := mul_self_nonneg _
+  apply (mul_self_nonneg q).not_gt
```
Comment (Vierkantor) [inline Mathlib/Tactic/NormNum/IsSquare.lean:97]: Also here, replacing a `calc` with a long `rw` is not an improvement for readability.

**Comment by Vierkantor** [comment]
I think standardising on one form is a great idea! In fact, I'd like one of [`neg_div`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/Basic.html#neg_div)/[`neg_div'`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/Basic.html#neg_div') to be marked as `@[simp]`.

But I am not convinced right now that `-a / b` is better than `-(a / b)` as a normal form. Here are some arguments against `-a / b`:

* Looking at right hand sides for rewrite lemmas in [Algebra.Ring.Basic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/Basic.html#one_div_neg_eq_neg_one_div), `-(a / b)` seems more popular. This is a weak argument, since no relevant theorem there is marked `@[simp]`.
* `-a / b` is asymmetric in a and b.
* `simp` gets stuck on `-a / b` where it doesn't on `-(a / b)` (as can be seen in the diff). This is the strongest argument against `-a / b` IMO.

Here are some arguments against `-(a / b)`:

* `-(a / b)` has more parentheses.
* `-a / b` is the [internal representation of `Rat.neg`](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Rat/Basic.html#Rat.neg).

If we add more `simp` lemmas for `-a / b` then I can be convinced that `-a / b` is a good normal form. (A good way to find out which ones are missing is to make `neg_div'` a `@[simp]` lemma and see what breaks!)
